US07244851B2
3-Chloro-4-phenyl-1,2,5-thiadiazole (3.19 g, 16.2 mmol) in THF (32 ml) at 0° C. was treated d with a solution of lithium bis(trimethylsilyl)amide in THF (17.0 ml, 1.0 M, 17.0 mmol). After 10 min the mixture allowed to warm to ambient temperature for 1.5 hr, treated with 1N hydrochloric acid, and extracted three times into ether (total 300 ml). The combined organic phases were washed with saturated aqueous sodium bicarbonate and brine, and dried over magnesium sulfate and concentrated in vacuo. The residue was dissolved in methanol (50 ml) and triethylamine (0.5 ml) was heated to reflux for 15 hr and again concentrated in vacuo. Flash chromatography on silica gel (ethyl acetate/hexanes) yielded 3-amino-4-phenyl-1,2,5-thiadiazole (1.96 g, 68%) as a colorless solid.

reactant | 3-Chloro-4-phenyl-1,2,5-thiadiazole | 16.2 mmol, 3.19 g | ClC1=NSN=C1C1=CC=CC=C1 | C8H5ClN2S
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 32 ml | C1CCOC1 | C4H8O
solvent | THF | 17.0 mmol, 1.0 M, 17.0 ml | C1CCOC1 | C4H8O
product | 3-amino-4-phenyl-1,2,5-thiadiazole | 1.96 g, 68% | NC1=NSN=C1C1=CC=CC=C1 | C8H7N3S
